US04785017
A mixture of 335 mg of racemic-6-acetyl-7-(3-bromopropoxy)-3,4-dihydro-2-methyl-8-n-propyl-2H-1-benzopyran-2-propanoic acid ethyl ester, 143 mg of 2',4'-dihydroxy-3'-n-propylacetophenone, 217 mg of anhydrous potassium carbonate, 6 ml of anhydrous acetone, and 3 ml of anhydrous N,N-dimethylformamide was stirred and refluxed for 17 hours. An additional 100 mg of potassium carbonate was added and stirring, and refluxing were continued for 4 hours. After being cooled to room temperature, the mixture was cautiously acidified to pH 1 by the addition of 1N hydrochloric acid. Water was added and the mixture was worked-up with ether in the usual manner. The residue was chromatographed on 50 g of silica gel. Elution with 9:1 toluene-ethyl acetate afforded 219 mg (52.6%) of racemic-6-acetyl-7-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)propoxy]-3,4-dihydro-2-methyl-8-n-propyl-2H-1-benzopyran-2-propanoic acid ethyl ester as a yellow oil.

reactant | racemic-6-acetyl-7-(3-bromopropoxy)-3,4-dihydro-2-methyl-8-n-propyl-2H-1-benzopyran-2-propanoic acid ethyl ester | 335 mg | C(C)OC(CCC1(OC2=C(CC1)C=C(C(=C2CCC)OCCCBr)C(C)=O)C)=O | C23H33BrO5
reactant | 2',4'-dihydroxy-3'-n-propylacetophenone | 143 mg | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | potassium carbonate | 217 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | acetone | 6 ml | CC(=O)C | C3H6O
product | racemic-6-acetyl-7-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)propoxy]-3,4-dihydro-2-methyl-8-n-propyl-2H-1-benzopyran-2-propanoic acid ethyl ester | 219 mg, 52.6% | C(C)OC(CCC1(OC2=C(CC1)C=C(C(=C2CCC)OCCCOC2=C(C(=C(C=C2)C(C)=O)O)CCC)C(C)=O)C)=O | C34H46O8
